US04886834
(1) Synthesis of 4,4'-dimethoxybenzophenone oxime
242 g (1 mole) of 4,4'-dimethoxybenzophenone was suspended in 2,000 ml of ethanol and 210 g (3 mole) of hydroxylamine hydrochloride and 300 ml (3 mole) of a 10N aqueous solution of NaOH were added thereto. Then the obtained mixture was heated under reflux. After two or three hours, the ethanol was distilled off in vacuo and then a saline solution was added thereto followed by extracting with chloroform. The chloroform phase was washed with water and dried over magnesium sulfate. After distilling the chloroform off, the residue was recrystallized from ethanol. Thus 240 g of the title compound was obtained in the form of colorless needles. m.p.: 131° to 132° C.

reactant | 4,4'-dimethoxybenzophenone | 1 mole, 242 g | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
reactant | hydroxylamine hydrochloride | 3 mole, 210 g | Cl.NO
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 2,000 ml | C(C)O | C2H6O
product | 4,4'-dimethoxybenzophenone oxime | 240 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)=NO)C=C1 | C15H15NO3
